US04872901
Ethyl 5-chloro-1-methylpyrazole-4-carboxylate (Compound C)
23.7 g of ethyl 5-amino-1-methylpyrazole-4-carboxylate is dissolved in a mixture of 50 ml of concentrated hydrochloric acid, 34 ml of acetic acid and 28 ml of phosphoric acid. A solution of 10 g of sodium nitrite in 25 ml of water is added dropwise to the solution while cooling at -4° C. to -6° C. and stirring over a period of 35 minutes to prepare the diazonium salt solution. While cooling at 3° C. to 4° C., the diazonium salt solution is added dropwise to 140 ml of concentrated hydrochloric acid containing 13.9 g of cuprous chloride over a period of 45 minutes. The mixture is stirred at the same temperature for 1 hour, poured into 2l of ice water, and extracted with ethyl acetate. The extract is washed with a saturated aqueous sodium chloride solution, a saturated aqueous sodium bicarbonate solution and a saturated sodium chloride solution in that order, and dried over anhydrous sodium sulfate. Ethyl acetate is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent, ethyl acetate:toluene=1:1) to give 11.7 g of the titled compound. Yield 44.3%.

reactant | ethyl 5-amino-1-methylpyrazole-4-carboxylate | 23.7 g | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
reactant | sodium nitrite | 10 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | hydrochloric acid | 140 ml, 13.9 g | Cl | ClH
solvent | acetic acid | 34 ml | C(C)(=O)O | C2H4O2
solvent | phosphoric acid | 28 ml | P(O)(O)(O)=O | H3O4P
solvent | water | 25 ml | O | H2O
product | Ethyl 5-chloro-1-methylpyrazole-4-carboxylate | 11.7 g, Yield 44.3% | ClC1=C(C=NN1C)C(=O)OCC | C7H9ClN2O2
